US08293735B2
6-((cis)-4-Azetidin-1-yl-3-fluoro-piperidin-1-ylmethyl)-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
Prepared according to the method used in the preparation of 2-chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine using (cis)-4-azetidin-1-yl-3-fluoro-piperidine in place of 7-methyl-2,7-diaza-spiro[3.5]nonane. The title compound was obtained as a tan solid (284 mg, 57%).

reactant | 2-chloro-6-(7-methyl-2,7-diaza-spiro[3.5]non-2-ylmethyl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CC1(C2)CCN(CC1)C)N1CCOCC1 | C19H26ClN5OS
reactant | (cis)-4-azetidin-1-yl-3-fluoro-piperidine | N1(CCC1)[C@@H]1[C@@H](CNCC1)F | C8H15FN2
product | 6-((cis)-4-Azetidin-1-yl-3-fluoro-piperidin-1-ylmethyl)-2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | N1(CCC1)[C@@H]1[C@@H](CN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl)F | C19H25ClFN5OS
